US07166587B2
To a solution of 0.82 g (4 mmol) of 5H,7H-dibenzo[b,d]azepin-6-one in 15 ml of dimethylformamide at room temperature 0.20 g (5 mmol) of sodium hydride 55% in oil was added. After stirring for 30 min at room temperature 0.75 g (5 mmol) of p-methoxybenzyl chloride were added and stirring was continued at room temperature for 2 hours. For workup the mixture was distributed between water and ethyl acetate. The organic layer was re-extracted with 1 N hydrochloric acid and the aqueous layers were washed with ethyl acetate. The combined organic layers were dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography (hexane/ethyl acetate=1:1) to yield 1.175 g (91%) of 5-(4-methoxybenzyl)-5H,7H-dibenzo[b,d]azepin-6-one as a colourless oil; MS: m/e: 330.4 (M+H+).

reactant | 5H,7H-dibenzo[b,d]azepin-6-one | 4 mmol, 0.82 g | C1=CC=CC=2NC(CC3=C(C21)C=CC=C3)=O | C14H11NO
reactant | sodium hydride | 5 mmol, 0.20 g | [H-].[Na+]
reactant | p-methoxybenzyl chloride | 5 mmol, 0.75 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-methoxybenzyl)-5H,7H-dibenzo[b,d]azepin-6-one | 1.175 g, 91% | COC1=CC=C(CN2C3=C(C4=C(CC2=O)C=CC=C4)C=CC=C3)C=C1 | C22H19NO2
